US08309546B2
5-{9-Isobutyl-8-[(3R)-3-methyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
5-{9-Isobutyl-8-[(3R)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (140 mg, 0.32 mmol) was dissolved in tetrahydrofuran (5 ml) followed by the addition of triethylamine (68 μl) and mesyl chloride (28 μl) with ice cooling and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned with ethyl acetate and water, the organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=5:5 to 0:10) to give a white solid (135 mg, 62%).

reactant | 5-{9-Isobutyl-8-[(3R)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.32 mmol, 140 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1C[C@H](NCC1)C)N1CCOCC1)C=1C=NC(=NC1)N | C22H32N10O
reactant | triethylamine | 68 μl | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 28 μl | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-{9-Isobutyl-8-[(3R)-3-methyl-4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 135 mg, 62% | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1C[C@H](N(CC1)S(=O)(=O)C)C)N1CCOCC1)C=1C=NC(=NC1)N | C23H34N10O3S
